US06169107A
The reaction was carried out in a manner similar to Example 196 a) except for using 0.44 g (1.74 mmol) of ethyl 4-chloro-7-hydroxy-1-methyl-2-indolecarboxylate, 0.66 g (2.58 mmol) of 4-(tert-butoxycarbonylaminomethyl)-benzyl chloride, 0.07 g (1.74 mmol) of 60% sodium hydride and 20 ml of dimethylformamide. Thus, 0.61 g (73.1%) of ethyl 7-[4-(tert-butoxycarbonylaminomethyl)benzyloxy]-4-chloro-1-methyl-2-indolecarboxylate was obtained.

reactant | ethyl 4-chloro-7-hydroxy-1-methyl-2-indolecarboxylate | 1.74 mmol, 0.44 g | ClC1=C2C=C(N(C2=C(C=C1)O)C)C(=O)OCC | C12H12ClNO3
reactant | 4-(tert-butoxycarbonylaminomethyl)-benzyl chloride | 2.58 mmol, 0.66 g | C(C)(C)(C)OC(=O)NCC1=CC=C(CCl)C=C1 | C13H18ClNO2
reactant | sodium hydride | 1.74 mmol, 0.07 g | [H-].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 7-[4-(tert-butoxycarbonylaminomethyl)benzyloxy]-4-chloro-1-methyl-2-indolecarboxylate | 0.61 g, 73.1% | C(C)(C)(C)OC(=O)NCC1=CC=C(COC=2C=CC(=C3C=C(N(C23)C)C(=O)OCC)Cl)C=C1 | C25H29ClN2O5
